US08703758B2
B) 6-amino-2-fluoro-3-methoxyphenol
A suspension of 2-fluoro-3-methoxy-6-nitrophenol (300 mg) and 5% palladium hydroxide (40 mg) in ethanol (10 mL) and THF (5 mL) was stirred at room temperature for 15 hr under a hydrogen atmosphere (1 atm). The mixture was filtered, and the filtrate was concentrated under reduced pressure to give the title compound (220 mg).

reactant | 2-fluoro-3-methoxy-6-nitrophenol | 300 mg | FC1=C(C(=CC=C1OC)[N+](=O)[O-])O | C7H6FNO4
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | palladium hydroxide | 40 mg | [OH-].[Pd+2].[OH-]
product | 6-amino-2-fluoro-3-methoxyphenol | 220 mg | NC1=CC=C(C(=C1O)F)OC | C7H8FNO2
